US06723720B2
6-(4-Bromophenyl)-3-(2,6-difluorophenyl)-[1,2,4]triazine
A mixture of 200 mg of N′-[(2,6-difluorophenyl)-iminomethyl]-hydrazinecarboxylic acid tert-butyl ester, 114 mg of (4-bromophenyl)-oxoacetaldehyde oxime and 123 mg of sodium acetate in 1.5 ml of glacial acetic acid is heated at 10° C. for 3 h. After cooling to room temperature, the reaction mixture is poured into water and extracted with ethyl acetate. The organic phase is washed in succession with saturated sodium hydrogen carbonate solution and saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated. The residue is purified by means of flash chromatography (1% methanol in dichloromethane). In this way the title compound having a melting point of 180-181° C. is obtained.

reactant | N′-[(2,6-difluorophenyl)-iminomethyl]-hydrazinecarboxylic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(=O)NNC(=N)C1=C(C=CC=C1F)F | C12H15F2N3O2
reactant | (4-bromophenyl)-oxoacetaldehyde oxime | 114 mg | BrC1=CC=C(C=C1)C(C=NO)=O | C8H6BrNO2
reactant | sodium acetate | 123 mg | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | 6-(4-Bromophenyl)-3-(2,6-difluorophenyl)-[1,2,4]triazine | BrC1=CC=C(C=C1)C1=CN=C(N=N1)C1=C(C=CC=C1F)F | C15H8BrF2N3
